US08138347B2
d) 1-phenyl-5-[4-(4-pyridinyl)-6-quinolinyl]-1,2-dihydro-3H-pyrazol-3-one
A solution of phenylhydrazine (0.093 ml, 0.95 mmol) in anhydrous THF (4.0 ml) was treated with a 1M solution of potassium tert-butoxide in THF (1.89 ml, 1.89 mmol). The resulting solution was added to a solution of ethyl 3-[4-(4-pyridinyl)-6-quinolinyl]-2-propynoate (0.268 g, 0.95 mmol) in THF (10 ml). The resulting brown solution was stirred at room temperature for 1 hour then at 65° C. for 1 hour. The resulting orange slurry was cooled to room temperature then concentrated under reduced pressure. The resulting residue was taken into saturated aqueous NaHCO3 then extracted into methylene chloride and the extracts were dried over sodium sulfate then evaporated under reduced pressure. The resulting oil was purified by HPLC (acetonitrile/water, 5-80% gradient). The product was concentrated to a residue then recrystallized from ethanol to give the title compound (0.020 g, 6%) as a white solid. MS(ES)+ m/e 365 [M+H]+.

reactant | phenylhydrazine | 0.95 mmol, 0.093 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl 3-[4-(4-pyridinyl)-6-quinolinyl]-2-propynoate | 0.95 mmol, 0.268 g | N1=CC=C(C=C1)C1=CC=NC2=CC=C(C=C12)C#CC(=O)OCC | C19H14N2O2
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1.89 mmol, 1.89 ml | C1CCOC1 | C4H8O
product | 1-phenyl-5-[4-(4-pyridinyl)-6-quinolinyl]-1,2-dihydro-3H-pyrazol-3-one | 0.020 g, 6% | C1(=CC=CC=C1)N1NC(C=C1C=1C=C2C(=CC=NC2=CC1)C1=CC=NC=C1)=O | C23H16N4O
